US07410966B2
6-Bromo-2-[4-(2-piperidin-1-ylethoxy)phenyl]-3H-imidazo[4,5-b]pyridine
The title compound was prepared from 5-bromo-2,3-diaminopyridine and 4-[2-(1-piperidinyl)ethoxy]benzaldehyde.

reactant | 5-bromo-2,3-diaminopyridine | BrC=1C=C(C(=NC1)N)N | C5H6BrN3
reactant | 4-[2-(1-piperidinyl)ethoxy]benzaldehyde | N1(CCCCC1)CCOC1=CC=C(C=O)C=C1 | C14H19NO2
product | 6-Bromo-2-[4-(2-piperidin-1-ylethoxy)phenyl]-3H-imidazo[4,5-b]pyridine | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)OCCN2CCCCC2 | C19H21BrN4O
